US07495006B2
trans-3-(Benzyloxyethyl)cyclobutyl 4-nitrobenzoate
In a 100 mL flask with cis-3-(benzyloxyethyl)cyclobutanol (1.84 g, 8.9 mmol), 4-nitrobenzoic acid (2.97 g, 17.8 mmol) and Ph3P (4.9 g, 18.7 mmol) inside, dry THF 25 mL was added under argon to give a colorless solution. This was cooled to 0° C. and DIAD (3.7 mL, 18.7 mmol) was added drop by drop. After 15 hr, the volatile materials were evaporated and the crude mixture was purified by silica gel flash chromatography (Hexane:EtOAc=9:1) to give off-white oil contaminated with some DIAD (3.74 g). 1H NMR (CDCl3, 400 MHz): δ 1.81-1.86 (m, 2H), 2.22-2.28 (m, 2H), 2.34-2.41 (m, 2H), 2.48-2.60 (m, 1H), 3.36-3.39 (t, J=6.4, 2H), 4.49 (s, 2H), 5.31-5.38 (m, 1H), 7.25-7.36 (m, 5H), 8.19-8.21 (dd, J=8.8, 2.0, 2H), 8.26-8.29 (dd, J=9.2, 2.0, 2H). 13C NMR (CDCl3, 100 MHz): δ 26.35, 34.84, 35.96, 68.82, 70.74, 73.17, 123.70, 127.76, 128.59, 130.88, 135.97, 138.65, 150.68, 164.42. MS (FAB): expected for C20H21NO5 (M−H)+ 354.38. Found 354.13378. IR (neat) νmax 2979, 2936, 2857, 1720, 1607, 1527, 1349, 1319, 1276, 1119, 1015, 874, 843, 738, 720, 698.

reactant | cis-3-(benzyloxyethyl)cyclobutanol | 8.9 mmol, 1.84 g | C(C1=CC=CC=C1)OCC[C@H]1C[C@H](C1)O | C13H18O2
reactant | 4-nitrobenzoic acid | 17.8 mmol, 2.97 g | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | Ph3P | 18.7 mmol, 4.9 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 18.7 mmol, 3.7 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | DIAD | 3.74 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | trans-3-(Benzyloxyethyl)cyclobutyl 4-nitrobenzoate | [N+](=O)([O-])C1=CC=C(C(=O)O[C@@H]2C[C@H](C2)CCOCC2=CC=CC=C2)C=C1 | C20H21NO5
